US04425154
A mixture of 3.5 g of 2-hydroxyphenylsulfonamide, 5.5 g of potassium carbonate and 1.7 ml of allyl bromide in 100 ml of methyl ethyl ketone is stirred, under nitrogen, for 1 hour at reflux temperature. The reaction mixture is cooled to room temperature, filtered, and evaporated to dryness. Once recrystallisation from ethyl acetate yields 3.27 g of 2-allyloxyphenylsulfonamide with a melting point of 104°-105° C.

reactant | 2-hydroxyphenylsulfonamide | 3.5 g | OC1=C(C=CC=C1)S(=O)(=O)N | C6H7NO3S
reactant | potassium carbonate | 5.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 1.7 ml | C(C=C)Br | C3H5Br
solvent | methyl ethyl ketone | 100 ml | C(C)C(=O)C | C4H8O
product | 2-allyloxyphenylsulfonamide | 3.27 g | C(C=C)OC1=C(C=CC=C1)S(=O)(=O)N | C9H11NO3S
